US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (1.50 g) as a starting compound, 2-benzylsulfonylethyl chloride (1.21 g) and potassium carbonate (1.54 g) were reacted and treated in the same manner as in Example 199 to give 1.72 g of 4-amino-5-chloro-2-methoxy-N-((1-(2-benzylsulfonylethyl)piperidin-4-yl)methyl)-benzamide,

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 1.50 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 2-benzylsulfonylethyl chloride | 1.21 g | C(C1=CC=CC=C1)S(=O)(=O)CCCl | C9H11ClO2S
reactant | potassium carbonate | 1.54 g | C([O-])([O-])=O.[K+].[K+]
product | 4-amino-5-chloro-2-methoxy-N-((1-(2-benzylsulfonylethyl)piperidin-4-yl)methyl)-benzamide | 1.72 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCS(=O)(=O)CC2=CC=CC=C2)C=C1Cl)OC | C23H30ClN3O4S
